US07737166B2
2-[(4-acetylpiperazin-1-yl)carbonyl]-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-2-carbonitrile (#45)
Under nitrogen atmosphere, a dimethyl sulfoxide (2 ml) solution of (3S)-3-(dimethylamino)pyrrolidine (99 μl, 782 μmol) was added at 150° C. to a dimethyl sulfoxide (11 ml) solution of 2-[(4-acetylpiperazin-1-yl)carbonyl]-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-119) (265 mg, 652 μmol) and triethylamine (118 μl, 848 μmol), followed by stirring at the same temperature for 5 hours. After cooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with ethyl acetate. Next, the combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (10:1, v/v) gave a crude product of the entitled compound as a solid, and the solid was suspended and washed in diisopropyl ether to obtain the entitled compound (72 mg, 22%) as an amorphous substance.

reactant | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | (3S)-3-(dimethylamino)pyrrolidine | 782 μmol, 99 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | dimethyl sulfoxide | 11 ml | CS(=O)C | C2H6OS
reactant | 2-[(4-acetylpiperazin-1-yl)carbonyl]-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | C(C)(=O)N1CCN(CC1)C(=O)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C22H19FN4O3
reactant | triethylamine | 848 μmol, 118 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 2-[(4-acetylpiperazin-1-yl)carbonyl]-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-2-carbonitrile | C(C)(=O)N1CCN(CC1)C(=O)C1(OC2=C(N1)C=C(C(=C2N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C)C#N | C28H34N6O3
